Isolated actual PWM bridges and hard analog consumers
.param EDGE=351.508832830773m
Vfive five 0 5
Vreset reset 0 0
Vraw raw 0 PWL(0 0 {EDGE} 0 {EDGE+1p} 5 {EDGE+200n} 5)
Apwm_inputs [five raw reset] [pwm_data pwm_clk pwm_reset] UPWM_ADC
Apwm pwm_data pwm_clk NULL pwm_reset pwm_q pwm_qn UDFF
Apwm_out [pwm_q] [pwm_hold] UPWM_DAC
.model UPWM_ADC adc_bridge(in_low=2.5 in_high=2.5 rise_delay=1n fall_delay=1n)
.model UDFF d_dff(clk_delay=1n reset_delay=1n set_delay=1n rise_delay=1p fall_delay=1p ic=0)
.model UPWM_DAC dac_bridge(out_low=0 out_high=5 out_undef=0 t_rise=1n t_fall=1n)
Bgate pwm 0 V=3*V(pwm_hold)
Cblank blank 0 1p IC=0
Bblank 0 blank I=(V(pwm_hold)>2.5) ? 1u : -V(blank)/1
Rpwm pwm pwm_input 1k
Rpwmpd pwm_input 0 10k
Bdriver_req drv_req 0 V=(V(pwm_input)>2.2) ? 15 : 0
Rdriver_delay drv_req drv 1
Cdriver_delay drv 0 18.75n
Rdriver drv gate_cmd 1
Rgate gate_cmd gate 10
Rgs gate 0 10k
Cgd gate sw 112p
Cgs gate 0 12n
Csw sw 0 344p
.options method=trap reltol=2e-4 abstol=1e-10 vntol=1e-7
.save time v(raw) v(pwm_hold) v(blank) v(pwm) v(gate)
.tran 1n {EDGE+200n} {EDGE-20n} 1m uic
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
rusage tranpoints traniter rejected
wrdata trace.tsv v(raw) v(pwm_hold) v(blank) v(pwm) v(gate)
quit
.endc
.end
